US07662771B2
5-[5-(2-methoxyphenyl)-oxazol-2-yl)-pentanoic acid methyl ester
Dissolve 5-[2-(2-methoxy-phenyl)-2-oxo-ethylcarbamoyl]-pentanoic acid methyl ester (4.57 g, 14.87 mmol) and 4-(dimethylamino)pryidine (3.56 g, 29.14 mmol) in 150 mL CH2Cl2 and cool the reaction mixture in an ice bath. Add triphenylphosphinedibromide (12.32 g, 1.96 mmol) to the reaction portionwise over 15 minutes. Raise the reaction to ambient temperature and allow it to stir for 12 hours. Wash the reaction with water and brine (2×). Dry the organic layers with MgSO4. Filter off the drying agent and concentrate in vacuo to afford a crude residue. Purify the residue using silica gel chromatography eluting with hexanes/ethyl acetate mixtures to afford 2.47 g of the titled product (57%): mass spectrum: m/z=290.1 (M+H).

reactant | 5-[2-(2-methoxy-phenyl)-2-oxo-ethylcarbamoyl]-pentanoic acid methyl ester | 14.87 mmol, 4.57 g | COC(CCCCC(NCC(=O)C1=C(C=CC=C1)OC)=O)=O | C16H21NO5
catalyst | 4-(dimethylamino)pryidine | 29.14 mmol, 3.56 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(2-methoxyphenyl)-oxazol-2-yl)-pentanoic acid methyl ester | 2.47 g, 57% | COC(CCCCC=1OC(=CN1)C1=C(C=CC=C1)OC)=O | C16H19NO4
